US04046909
To a slurry of 6.73 g (0.05 mole) of 2-imino-1-methylpyrrolidine hydrochloride in 75 ml. of dry benzene is added, with stirring, 2 ml. of water, followed by 6 ml. of 50% NaOH. The benzene is decanted onto anhydrous K2CO3 and the aqueous layer washed twice with 50 ml. portions of benzene, the benzene being collected by decanting onto the K2CO3. The benzene extracts are put under nitrogen and dried for 15 minutes, then filtered rapidly through diatomaceous earth (nitrogen blanket) and washed with 100 ml. of benzene. To the filtrate is added 9.4 g. (0.05 mole) of 2,6-dichlorophenylisocyanate, put under nitrogen, stoppered and stirred at room temperature for 2 hours. The mixture is filtered and the solvent removed under reduced pressure. Trituration of the oily residue results in crystallization, 1-(2,6-dichlorophenyl)-3-(1-methyl-2-pyrrolidylidene)urea, and the white crystals are filtered and collected. After recrystallization from benzene-ether-petroleum ether, the m.p. is 134°-136° C.

reactant | 2-imino-1-methylpyrrolidine hydrochloride | 0.05 mole, 6.73 g | Cl.N=C1N(CCC1)C
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | NaOH | [OH-].[Na+]
reactant | 2,6-dichlorophenylisocyanate | 0.05 mole | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | water | O | H2O
product | 1-(2,6-dichlorophenyl)-3-(1-methyl-2-pyrrolidylidene)urea | ClC1=C(C(=CC=C1)Cl)NC(=O)N=C1N(CCC1)C | C12H13Cl2N3O
